US07001917B2
Step 1. 2-{4-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 2-(4-hydrazinophenyl)ethanol hydrochloride and 1,1,1-trifluoro-2,4-pentanedione: MS (ESI) m/z 270 [M+H]+, 1H-NMR (CDCl3) δ 7.41-7.34 (4H, m), 6.45 (1H, s), 3.93-3.86 (211, m), 2.94 (2H, t, J=6.6 Hz), 2.34 (3H, s).

reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
reactant | 1,1,1-trifluoro-2,4-pentanedione | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
product | 2-{4-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}ethanol | CC1=CC(=NN1C1=CC=C(C=C1)CCO)C(F)(F)F | C13H13F3N2O
